US05217978
Using the procedure described in Example 5, 4-(5-bromothien-2-yl)-4-methoxytetrahydropyran was reacted with di-(4-methyl-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-7-yl) disulphide to give 4-methoxy-4-[5-(4-methyl-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-7-ylthio)thien-2-yl]tetrahydropyran in 28% yield, m.p. 65°-69° C.

reactant | 4-(5-bromothien-2-yl)-4-methoxytetrahydropyran | BrC1=CC=C(S1)C1(CCOCC1)OC | C10H13BrO2S
reactant | di-(4-methyl-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-7-yl) disulphide | CN1C(COC2=C1C=CC(=C2)SSC2=CC1=C(N(C(CO1)=O)C)C=C2)=O | C18H16N2O4S2
product | 4-methoxy-4-[5-(4-methyl-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-7-ylthio)thien-2-yl]tetrahydropyran | 28% yield | COC1(CCOCC1)C=1SC(=CC1)SC1=CC2=C(N(C(CO2)=O)C)C=C1 | C19H21NO4S2
